US04959361
A solution of 6 g of 3,4-dihydro-2(1H)-quinolinone in 50 ml of formic acid and 50 ml of conc. hydrochloric acid was added to 75 ml of 1,2-dichloroethane which had been saturated with chlorine. The mixture was stirred over ice for 30 minutes. Chlorine was introduced for 5 minutes and stirring in the cold was continued for 2 hours. It was then poured onto ice, was made basic with ammonium hydroxide and was extracted with methylene chloride. The extracts were dried and evaporated and the residue was chromatographed over 300 g of silica gel using 8% (v/v) of ethyl acetate in methylene chloride. Crystallization of the combined clean fractions from ether gave colorless crystals of 6,8-dichloro-3,4-dihydro-2(1H) quinolinone with m.p. 145°-146°.

reactant | 3,4-dihydro-2(1H)-quinolinone | 6 g | N1C(CCC2=CC=CC=C12)=O | C9H9NO
reactant | 1,2-dichloroethane | 75 ml | ClCCCl | C2H4Cl2
reactant | chlorine | ClCl | Cl2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | formic acid | 50 ml | C(=O)O | CH2O2
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 6,8-dichloro-3,4-dihydro-2(1H) quinolinone | ClC=1C=C2CCC(NC2=C(C1)Cl)=O | C9H7Cl2NO
